US06395759B1
(±)-4-tert-Butyl-2-methoxy-N-(3-pyrrolidin-2-yl-phenyl)-benzamide, monohydroclhloride
A solution of (±)-2-[3-(4-tert-butyl-2-methoxy-benzoylamino)-phenyl]-1-(tert-butyloxycarbonyl)-pyrrolidine (0.034 g) in methanol (3 mL) and 5M HCl (2 mL) was allowed to stir at room temperature for 18 h. Evaporation in vacuo gave the title compound as a colourless solid (0.029 g).

reactant | (±)-2-[3-(4-tert-butyl-2-methoxy-benzoylamino)-phenyl]-1-(tert-butyloxycarbonyl)-pyrrolidine | 0.034 g | C(C)(C)(C)C1=CC(=C(C(=O)NC=2C=C(C=CC2)C2N(CCC2)C(=O)OC(C)(C)C)C=C1)OC | C27H36N2O4
solvent | methanol | 3 mL | CO | CH4O
solvent | HCl | 5M, 2 mL | Cl | ClH
product | (±)-4-tert-Butyl-2-methoxy-N-(3-pyrrolidin-2-yl-phenyl)-benzamide | 0.029 g | C(C)(C)(C)C1=CC(=C(C(=O)NC2=CC(=CC=C2)C2NCCC2)C=C1)OC | C22H28N2O2
